US07153854B2
To a solution of tert-butyl 4-(methylthio)-3-oxobutanoate (5.00 g) and potassium carbonate (3.72 g) in dimethylformamide (25 mL) was added ethyl 5-iodopentanoate (6.89 g) and the mixture was stirred at ambient temperature for 15 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (20:1-10:1) to give 1-tert-butyl 7-ethyl 2-[(methylthio)acetyl]heptanedioate as colorless oil (5.88 g).

reactant | tert-butyl 4-(methylthio)-3-oxobutanoate | 5.00 g | CSCC(CC(=O)OC(C)(C)C)=O | C9H16O3S
reactant | potassium carbonate | 3.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 5-iodopentanoate | 6.89 g | ICCCCC(=O)OCC | C7H13IO2
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 1-tert-butyl 7-ethyl 2-[(methylthio)acetyl]heptanedioate | 5.88 g | CSCC(=O)C(C(=O)OC(C)(C)C)CCCCC(=O)OCC | C16H28O5S
